US08211908B2
To 0.51 g of tert-butyl (1-(2-(7-bromo-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate, 18 mL of a 2 mol/L hydrogen chloride/ethanol solution was added at room temperature, the mixture was stirred at room temperature for 59 hours, and at 50° C. for 9 hours, and then, the generated solid was filtered off. Subsequently, the solid was suspended in 3 mL of chloroform, thereto was added 5 mL of trifluoroacetic acid, the mixture was stirred at room temperature for 100 minutes, and then the solvent was distilled off under reduced pressure. The residue was charged with 10 mL of chloroform and 3 mL of water and adjusted to pH 10 with a 2 mol/L aqueous sodium hydroxide solution, and then the organic layer was separated. The aqueous layer was extracted with chloroform twice, and combined with the organic layer, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was dissolved in 2 mL of ethyl acetate and 3 mL of ethanol, and 10 mL of a 2 mol/L hydrochloric acid/ethanol solution was added thereto, the mixture was stirred for 15 minutes, and the solvent was distilled off under reduced pressure. To the residue, 4 mL of ethyl acetate was added and suspended, and the solid was filtered off to obtain 0.41 g of 7-bromo-1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one hydrochloride as a slightly yellow solid.

reactant | tert-butyl (1-(2-(7-bromo-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate | 0.51 g | BrC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)N(C(OC(C)(C)C)=O)CC1=CC2=C(C=N1)OCCO2)=O | C28H34BrN5O5
reactant | hydrogen chloride ethanol | 2 mol/L | Cl.C(C)O
product | 7-bromo-1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one hydrochloride | 0.41 g | Cl.BrC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NCC1=CC2=C(C=N1)OCCO2)=O | InChI=1S/C23H26BrN5O3.ClH/c24-16-11-20-19(27-13-16)1-2-23(30)29(20)8-7-28-5-3-17(4-6-28)25-14-18-12-21-22(15-26-18)32-10-9-31-21;/h1-2,11-13,15,17,25H,3-10,14H2;1H
